US04377522
6.6 g (0.021 mol) of 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one, dissolved in 50 ml of concentrated aqueous hydrobromic acid, are treated slowly at between 0° and 5° with 1.2 l of bromine and stirred at 0° for 1 hour. Subsequently, the reaction mixture is poured into a mixture of ice and soda solution, extracted with methylene chloride and the organic extract is evaporated. The residue is purified on 300 g of silica gel with methylene chloride/ethyl acetate (20:1). From ethyl acetate/ether there is obtained 7-amino-6-bromo-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one of melting point 217°-220°.

reactant | 7-amino-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | 0.021 mol, 6.6 g | NC=1C=CC2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)F)C1 | C18H18FN3O
reactant | bromine | 1.2 l | BrBr | Br2
solvent | hydrobromic acid | 50 ml | Br | BrH
product | 7-amino-6-bromo-5-(o-fluorophenyl)-1,3-dihydro-1,3,3-trimethyl-2H-1,4-benzodiazepin-2-one | NC=1C=CC2=C(C(=NC(C(N2C)=O)(C)C)C2=C(C=CC=C2)F)C1Br | C18H17BrFN3O
